US06710039B1
17β-hydroxy-4,5-epoxy-14α,15α-methylene-androstan-3-one (1.5 g) is dissolved in 150 mL of acetone and treated at 0° C. with 5.5 mL of concentrated hydrochloric acid. After 24 hours at 0° C., the reaction mixture is neutralized with sodium carbonate solution and the acetone is evaporated. The residue is extracted with dichloromethane. The organic extracts are dried and concentrated. After crystallization from ethanol, 4-chloro-17β-hydroxy-14α,15α-methylene-androst-4-ene-3-one is obtained.

reactant | 17β-hydroxy-4,5-epoxy-14α,15α-methylene-androstan-3-one | 1.5 g | O[C@@H]1[C@]2(C)[C@@]3([C@H](C1)C3)[C@@H]3CCC14C(C(CC[C@]1(C)[C@H]3CC2)=O)O4 | C20H28O3
reactant | hydrochloric acid | 5.5 mL | Cl | ClH
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | acetone | 150 mL | CC(=O)C | C3H6O
product | 4-chloro-17β-hydroxy-14α,15α-methylene-androst-4-ene-3-one | ClC1=C2CC[C@H]3[C@]45[C@H](C[C@@H]([C@@]4(C)CC[C@@H]3[C@]2(CCC1=O)C)O)C5 | C20H27ClO2
